US07220862B2
(±)-2-Amino-3-(7-ethyl-3methyl-1H-indazol-5-yl)-propionic acid methyl ester
2-Benzyloxycarbonylamino-3-(7-ethyl-3-methyl-1H-indazol-5-yl)-acrylic acid methyl ester (1.0 g, 2.54 mmol) in methanol (15 mL) was flushed with nitrogen, and treated with palladium on charcoal (10%, 100 mg). The flask was flushed with hydrogen and allowed to stir under an atmosphere of hydrogen overnight. The reaction was flushed with nitrogen, filtered through celite, and concentrated. Column chromatography gave 0.6 g (91%) of the desired material. 1H-NMR (CD3OD) δ 1.32 (m, 3H), 2.50 (s, 3H), 2.88 (dd, J=7.3, 7.6, 1H), 2.89 (dd, J=7.6, 7.6, 1H), 3.02 (dd, J=6.4, 7.0, 1H), 3.11 (dd, J=7.6, 5.8, 1H), 3.35 (s, 1H), 3.65 (m, 3H), 7.00 (s, 1H), 7.33 (s, 1H). Mass spec.: 262.24 (MH)+.

reactant | 2-Benzyloxycarbonylamino-3-(7-ethyl-3-methyl-1H-indazol-5-yl)-acrylic acid methyl ester | 2.54 mmol, 1.0 g | COC(C(=CC=1C=C2C(=NNC2=C(C1)CC)C)NC(=O)OCC1=CC=CC=C1)=O | C22H23N3O4
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
product | (±)-2-Amino-3-(7-ethyl-3methyl-1H-indazol-5-yl)-propionic acid methyl ester | 0.6 g, 91% | COC(C(CC=1C=C2C(=NNC2=C(C1)CC)C)N)=O | C14H19N3O2
